US06211234B1
2-Hydroxy-4-(3-thienylmethoxy)benzonitrile (1.5 g) is added portionwise to a stirred suspension of sodium hydride (440 mg, 60% dispersion in mineral oil) in dry DMF(50 mL). After stirring at ambient temperature for 30 minutes, ethyl (RS)-4-chloro-4-(2,5-dimethylphenyl)butanoate (2.5 g) is added in one portion and the reaction stirred for 48 hours at 90° C. The reaction is concentrated in vacuo and the residue partitioned between ethyl acetate (50 mL) and water (50 mL). The aqueous layer is extracted twice with ethyl acetate (50 mL). The combined organic phases are dried over magnesium sulphate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica eluting with a mixture of ethyl acetate and pentane (1:2 v/v). Fractions homogeneous in the required product are combined and evaporated to give ethyl (RS)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)-4-(2,5-dimethylphenyl)butanoate (500 mg) as a pale brown oil.

reactant | 2-Hydroxy-4-(3-thienylmethoxy)benzonitrile | 1.5 g | OC1=C(C#N)C=CC(=C1)OCC1=CSC=C1 | C12H9NO2S
reactant | sodium hydride | 440 mg | [H-].[Na+]
reactant | ethyl (RS)-4-chloro-4-(2,5-dimethylphenyl)butanoate | 2.5 g | ClC(CCC(=O)OCC)C1=C(C=CC(=C1)C)C | C14H19ClO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl (RS)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)-4-(2,5-dimethylphenyl)butanoate | 500 mg | C(#N)C1=C(OC(CCC(=O)OCC)C2=C(C=CC(=C2)C)C)C=C(C=C1)OCC1=CSC=C1 | C26H27NO4S
